Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
___ with right hip OA
 
Major Surgical or Invasive Procedure:
Right total hip arthroplasty

 
History of Present Illness:
___ with Right hip OA who is now focusing on improving her 
comfort of
the significantly arthritic right hip.  Her radiographs of the
hip show severe osteoarthritic changes with complete bone on 
bone
involvement, osteophytes at the superolateral and inferomedial
margin with subchondral sclerosis, and cystic degeneration.  The
total knee replacement from a year ago looks fine.  She has
tricompartmental osteoarthritic changes on the contralateral
right knee as well with chondrocalcinosis.

 
Past Medical History:
PMHx:
1. Polymyalgia Rheumatica - tapered off steroids in ___
2. Afib (on coumadin/ASA) s/p ablation 
3. HTN
4. Graves' disease, status post treatment with radioactive 
iodine, and now hypothyroid
5. GERD
6. Osteoarthritis
7. Hyperlipidemia
8. Constipation
9. 2+ MR, mild Pulm HTN in ___
10.Anemia

PSurgH:
1. R shoulder surgery
2. TAH/BSO
3. Appendectomy.
4. Open cholecystectomy
5. Sigmoid colectomy on ___ for diverticulitis and 
phlegmon
6. lumbar laminectomy for disk herniations in ___
7. rectal fissure repair
8. L TKR ___

 
Social History:
___
Family History:
As per resident note, Father died of prostate cancer, mother 
died of a stroke.
 
Physical Exam:
o Afebrile with stable vital signs
o Respiratory: CTAB
o Cardiovascular: RRR
o Gastrointestinal: NABS, no guarding
o Genitourinary: voiding on her own
o Lymph: no LAD
o Musculoskeletal-Extremities: RLE dressing clean and dry.  SILT 
sp/dp/saph/sural.  Nuero in tact with palpable pulses
o Neurologic: no deficits
o Integument: no rashes
o Psychiatric: clear sensorium
 
Pertinent Results:
___ 07:30AM BLOOD WBC-8.2 RBC-3.11* Hgb-9.6* Hct-29.8* 
MCV-96 MCH-30.8 MCHC-32.2 RDW-13.2 Plt ___
___ 07:15AM BLOOD WBC-9.8# RBC-3.09* Hgb-9.6* Hct-28.5* 
MCV-92 MCH-31.2 MCHC-33.8 RDW-12.9 Plt ___
___ 07:05AM BLOOD WBC-6.1 RBC-3.61* Hgb-11.1*# Hct-33.0* 
MCV-91 MCH-30.8 MCHC-33.7 RDW-12.7 Plt ___
___ 07:15AM BLOOD Plt ___
___ 07:15AM BLOOD ___
___ 07:05AM BLOOD Plt ___
___ 07:05AM BLOOD ___
___ 07:05AM BLOOD Glucose-117* UreaN-24* Creat-1.0 Na-136 
K-4.0 Cl-102 HCO3-23 AnGap-15
___ 07:05AM BLOOD Calcium-8.6 Phos-3.2 Mg-1.5*
___ 07:15AM BLOOD TSH-7.9*
 
Brief Hospital Course:
The patient was admitted on ___ and, later that day, was 
taken to the operating room by Dr. ___ right total hip 
arthroplsty without complication.  Please see operative report 
for details. Postoperatively the patient did well.  The patient 
was initially treated with a PCA followed by PO pain medications 
on POD#1.  The patient received IV antibiotics for 24 hours 
postoperatively, as well as lovenox for DVT prophylaxis starting 
on the morning of POD#1.  The drain was removed without incident 
on POD#1. The Foley catheter was removed without incident. The 
surgical dressing was removed on POD#2 and the surgical incision 
was found to be clean, dry, and intact without erythema or 
purulent drainage.

While in the hospital, the patient was seen daily by physical 
therapy. Labs were checked throughout the hospital course and 
repleted accordingly. At the time of discharge the patient was 
tolerating a regular diet and feeling well.  The patient was 
afebrile with stable vital signs. The patient's hematocrit was 
stable, and the patient's pain was adequately controlled on a PO 
regimen. The operative extremity was neurovascularly intact and 
the wound was benign. The patient was discharged to 
rehabilitation in a stable condition.  The patient's 
weight-bearing status was as tolerated.  

 
Discharge Medications:
1. Lovenox 40 mg/0.4 mL Syringe Sig: One (1) vial Subcutaneous 
once a day for 21 days: take 1 40mg vial daily .
Disp:*21 vials* Refills:*0*
2. Hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for Pain.  
3. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
4. Amiodarone 200 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Alendronate 70 mg Tablet Sig: One (1) Tablet PO 1X/WEEK (___). 
 
6. Levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. Dicyclomine 10 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
9. Trandolapril 1 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
10. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H 
(every 6 hours).  
11. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
12. Trandolapril 2 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day).  
13. Senna 8.6 mg Tablet Sig: ___ Tablets PO BID (2 times a day) 
as needed for Constipation.  
14. Calcium Carbonate 500 mg Tablet, Chewable Sig: Three (3) 
Tablet, Chewable PO DAILY (Daily).  
15. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
16. Multivitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).  
17. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
18. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
Constipation.  
19. Magnesium Hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO BID (2 times a day) as needed for Constipation.  
20. Warfarin 3 mg Tablet Sig: 1.5 tablets (4.5mg) Tablets PO q 
sun, tues, thurs for for life months: give 4.5 mg every ___, 
___, thursda. INR goal ___.
Disp:*70 Tablet(s)* Refills:*0*
21. Coumadin 3 mg Tablet Sig: One (1) Tablet PO q mon, wed, fri, 
sat: give 3mg every mon, wed, fri, sat.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right hip OA

 
Discharge Condition:
good

 
Discharge Instructions:
1. Please return to the emergency department or notify MD if you 
experience severe pain not relieved by medication, increased 
swelling, decreased sensation, difficulty with movement, fevers 
>101.5, shaking chills, redness or drainage from the incision 
site, chest pain, shortness of breath or any other concerns.
2. Please follow up with your PCP regarding this admission and 
any new medications and refills. 
3. Resume your home medications unless otherwise instructed. 
4. You have been given medications for pain control. Please do 
not operate heavy machinery or drink alcohol when taking these 
medications. As your pain improves, please decrease the amount 
of pain medication. This medication can cause constipation, so 
you should drink plenty of water daily and take a stool softener 
(e.g., colace) as needed to prevent this side effect.
5. You may not drive a car until cleared to do so by your 
surgeon or your primary physician.
6. Please keep your wounds clean. You may get the wound wet or 
take a shower starting 5 days after surgery, but no baths or 
swimming for at least 4 weeks. No dressing is needed if wound 
continues to be non-draining. Any stitches or staples that need 
to be removed will be taken out by a visiting nurse at 2 weeks 
after your surgery.
7. Please call your surgeon's office to schedule or confirm your 
follow-up appointment at 4 weeks.
8. Please DO NOT take any NSAIDs (i.e. celebrex, ibuprofen, 
advil, motrin, etc). 
9. ANTICOAGULATION: Please continue your lovenox for 3 weeks to 
prevent deep vein thrombosis (blood clots).  After completing 
the lovenox, please take Aspirin 325mg twice daily for an 
additional three weeks. 
10. WOUND CARE: Please keep your incision clean and dry. It is 
okay to shower after POD#5 but do not take a tub-bath or 
submerge your incision until 4 weeks after surgery. Please place 
a dry sterile dressing on the wound each day if there is 
drainage, otherwise leave it open to air. Check wound regularly 
for signs of infection such as redness or thick yellow drainage. 
Staples will be removed by ___ in 2 weeks. If you are going to 
rehab, the rehab facility can remove the staples at 2 weeks.
11. ___ (once at home): Home ___, dressing changes as 
instructed, wound checks, and staple removal at 2 weeks after 
surgery.
12. ACTIVITY: Weight bearing as tolerated on the operative leg. 
No strenuous exercise or heavy lifting until follow up 
appointment.  Continue to use your CPM machine as directed.
Physical Therapy:
as tolerated, operated side
Treatments Frequency:
keep clean and drt
 
Followup Instructions:
___